US05679696
A stirred solution of diisopropylamine (9.75 mL) in dry tetrahydrofuran (200 mL) at -70° C. is treated dropwise with a solution of butyl lithium in hexane (27.2 mL; 2.5M) and the solution is stirred for 30 minutes. It is then treated with a solution of 3,5-dichloro-4-methylpyridine (10.25 g) in dry tetrahydrofuran (60 mL) during 30 minutes, while keeping the temperature below -75° C., and the solution is then stirred for a further 30 minutes. It is then treated with 3-cyclopentyloxy-4-methoxybenzaldehyde (13.92 g) in dry tetrahydrofuran (60 mL) during 15 minutes, and stirred for a further 1 hour 30 minutes at -75° C. The solution is treated with aqueous ammonium chloride solution and extracted with ethyl acetate (3×100 mL). The organic layers are combined, washed with brine, dried and concentrated to low volume. The resulting precipitate is filtered off, to give 1-(3-cyclopentyloxy-4-methoxyphenyl)-2-(3,5-dichloropyrid-4-yl)ethanol (20.5 g), m.p. 124°-125° C.

reactant | diisopropylamine | 9.75 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium | C(CCC)[Li]
reactant | 3,5-dichloro-4-methylpyridine | 10.25 g | ClC=1C=NC=C(C1C)Cl | C6H5Cl2N
reactant | 3-cyclopentyloxy-4-methoxybenzaldehyde | 13.92 g | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | hexane | 2.5M, 27.2 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 1-(3-cyclopentyloxy-4-methoxyphenyl)-2-(3,5-dichloropyrid-4-yl)ethanol | 20.5 g | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC1=C(C=NC=C1Cl)Cl)O | C19H21Cl2NO3
